dc transients in rc circuit

r_r1         n_0002 n_0001  10k
c_c1         n_0001 0  10u
c_c2         n_0003 0  10u ic=50v
r_r2         n_0004 n_0003  20k
v_v1         n_0002 0 pulse 0 100 0 0 0 1.1s 3s
v_v2         n_0004 0 pulse 0 100 0 0 0 1.1 2.5s

.tran 0.1ms 2.5s

# Control Statements 
.control
run
.endc
.end
