rlc circuit in time domain

c_c1         n_0001 0  100u
l_l1         n_0002 n_0001  0.001
r_r1         n_0003 n_0002  5
v_v1         n_0003 0 sin 0 100 159.15 0 0 0

.tran 0.1m 40ms 0 0.01m

* Control Statements 
.control
run
.endc
.end
