transistor example
.include q2n2222.lib

r_rbias  n_0001 vdd 20k
r_rc1    out1 vdd 10k
r_rc2    out2 vdd 10k
r_rs2    n_0002 0 1k
r_rs1    n_0004 n_0003 1k
q_q3     n_0001 n_0001 vee q2n2222
q_q4     n_0005 n_0001 vee q2n2222
q_q1     out1 n_0003 n_0005 q2n2222
q_q2     out2 n_0002 n_0005 q2n2222
c_cload  out1 out2 5p
v_v3     vee 0 dc -12
v_v2     vdd 0 dc +12
v_v1     n_0004 0 dc .125 ac 1 sin 0v 0.1v 5meg 0 0 0

.tran 20ns 1000ns

* Control Statements 
.control
run
.endc
.end
