full wave diode rectifier with and without cap filter
.include d1n4002.lib

c_c1         out1 0  10uf
r_rl1         out1 0  1k
v_v1         in1 in2 sin 0 6v 50hz 0 0 0
r_rl2         out2 0  1k
v_v2         in3 in4 sin 0 6v 50hz 0 0 0
d_d3         0 in1 d1n4002
d_d4         0 in2 d1n4002
d_d2         in2 out1 d1n4002
d_d1         in1 out1 d1n4002
d_d8         in3 out2 d1n4002
d_d5         in4 out2 d1n4002
d_d6         0 in4 d1n4002
d_d7         0 in3 d1n4002

.tran 0.01ms 60ms

* Control Statements 
.control
run
.endc
.end
