superposition theorem

r_rl1         x1 dummy_1  5
r_rl2         x2 dummy_2  5
v_v3         n_0001 0 0
v_v2         n_0002 0 10v
r_r1         n_0003 x  5
v_v1         n_0003 0 10
r_rl         x dummy_0  5
i_i1         0 x dc 20a
i_i2         0 x1 dc 0a
r_r2         n_0002 x1  5
i_i4         0 x2 dc 20a
r_r3         n_0001 x2  5
vr_rl dummy_0 0 0
vr_rl1 dummy_1 0 0
vr_rl2 dummy_2 0 0

.dc  v_v1 0 5  0.1

* Control Statements 
.control
run
print i(vr_rl) i(vr_rl1) i(vr_rl2)
.endc
.end
